US04603198
3.47 g of ethyl 1,2,3-triazole-4-carboxylate and 7.55 g of trityl chloride were dissolved in 100 ml of chloroform and 3.77 ml of triethylamine was added dropwise thereto under stirring and cooling in an ice-bath. The resulting mixture was stirred for 30 minutes at room temperature. Chloroform was distilled off and the residue was dissolved in ethyl acetate and the mixture was washed with an aqueous solution of sodium chloride and then dried with sodium sulfate. Ethyl acetate was distilled off and the residue was purified by silica gel column chromatography with benzene and chloroform eluent to give 8.37 g of ethyl N-trityl-1,2,3-triazole-4-carboxylate with mp 201°-203° C.

reactant | ethyl 1,2,3-triazole-4-carboxylate | 3.47 g | N1N=NC(=C1)C(=O)OCC | C5H7N3O2
reactant | trityl chloride | 7.55 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 3.77 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl N-trityl-1,2,3-triazole-4-carboxylate | 8.37 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=NC(=C1)C(=O)OCC | C24H21N3O2
